US05716971
To a solution of 5-bromo-2-hydroxy-α-(2-pyridyl)-benzyl alcohol (3.18 g) in chloroform (60 ml) was added at 0° C. 70% m-chloroperbenzoic acid (3.30 g). The mixture was stirred for 10 minutes at the same temperature, then for further 3.5 hours while warming up to room temperature. The reaction mixture was poured into an aqueous solution of sodium sulfite, followed by extraction with ethyl acetate. The extract solution was washed with an aqueous solution of sodium carbonate and a saturated aqueous saline solution, successively, dried (anhydrous sodium sulfate), and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(5-bromo-2, α-dihydroxybenzyl)pyridine N-oxide (2.50 g, m.p.188°-189° C.), whose spectrum data are shown below.

reactant | 5-bromo-2-hydroxy-α-(2-pyridyl)-benzyl alcohol | 3.18 g | BrC=1C=CC(=C(C(C2=NC=CC=C2)O)C1)O | C12H10BrNO2
reactant | m-chloroperbenzoic acid | 3.30 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-bromo-2, α-dihydroxybenzyl)pyridine N-oxide | 2.50 g | BrC=1C=CC(=C(C(O)C2=[N+](C=CC=C2)[O-])C1)O | C12H10BrNO3
